US08080566B1
A 250-mL 3-necked round-bottomed flask was charged with a solution of LiAlH4 (2.96 g, 77.83 mmol, 2.00 equiv) in THF (150 mL). To this solution was added 1-benzyl 3-ethyl piperidine-1,3-dicarboxylate (11.4 g, 39.16 mmol, 1.00 equiv) in THF (50 mL) drop wise with stirring at −10° C. The resulting mixture was allowed to stir about 1 hour at −10° C. The progress was monitored by TLC (DCM: MeOH=10:1). The resulting solution was diluted with 10 mL of NaOH/H2O. The solids were filtered out. The resulting mixture was concentrated on a rotary evaporator to afford benzyl 3-(hydroxymethyl)piperidine-1-carboxylate as pale yellow oil in (8.94 g, (92%).

reactant | LiAlH4 | 77.83 mmol, 2.96 g, 2.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-benzyl 3-ethyl piperidine-1,3-dicarboxylate | 39.16 mmol, 11.4 g, 1.00 equiv | N1(CC(CCC1)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C16H21NO4
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaOH H2O | 10 mL | [OH-].[Na+].O
product | benzyl 3-(hydroxymethyl)piperidine-1-carboxylate | OCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
